US09376442B2
4-[5-Acetyl-2-(cyclopropylmethoxy)phenyl]-N-{trans-4-[(methoxyacetyl)amino]cyclohexyl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[5-acetyl-2-(cyclopropylmethoxy)phenyl]-N-(trans-4-aminocyclohexyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f56) and commercially available methoxy-acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-[5-acetyl-2-(cyclopropylmethoxy)phenyl]-N-(trans-4-aminocyclohexyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C(C)(=O)C=1C=CC(=C(C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CC[C@H](CC2)N)OCC2CC2
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-[5-Acetyl-2-(cyclopropylmethoxy)phenyl]-N-{trans-4-[(methoxyacetyl)amino]cyclohexyl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)C=1C=CC(=C(C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CC[C@H](CC2)NC(COC)=O)OCC2CC2 | C29H35N5O5
